US06573289B1
2-Bromo-6-ethoxynaphthalene (5.3 g) was dissolved in THF (40 ml). To the solution were added magnesium (0.515 g) and methyl iodide (one drop), and the mixture was vigorously stirred to dissolve magnesium. The reaction mixture was cooled in ice bath, and a solution of 4-formyl-1-tritylimidazole (7 g) in THF (80 ml) was added dropwise over 30 min, and the mixture was stirred at room temperature for 1 h. To the reaction mixture were added saturated aqueous solution of ammonium chloride (40 ml) and water (40 ml), and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue was washed with ethyl acetate to give (6-ethoxynaphthalen-2-yl)(1-trityl-1H-imidazol-4-yl)methanol (6.3 g) as a colorless powder. The product (6.3 g) was dissolved in dichloromethane (120 ml). To the solution was added manganese dioxide (6 g), and the mixture was stirred at room temperature over night. The reaction mixture was filtered with celite, and the filtrate was concentrated. The residue was crystallized from THF-ethyl acetate to give the titled compound (5.5 g) as a colorless powder.

reactant | 2-Bromo-6-ethoxynaphthalene | 5.3 g | BrC1=CC2=CC=C(C=C2C=C1)OCC | C12H11BrO
reactant | magnesium | 0.515 g | [Mg] | Mg
reactant | 4-formyl-1-tritylimidazole | 7 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | methyl iodide | one drop | CI | CH3I
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | (6-ethoxynaphthalen-2-yl)(1-trityl-1H-imidazol-4-yl)methanol | 6.3 g | C(C)OC=1C=C2C=CC(=CC2=CC1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H30N2O2
